US05710138
c) (2-Amino-4-nitro-1-naphthylamino)-methanephosphonic acid diethyl ester
1.352 g of (2,4 dinitro-1-naphthylamino)-methanephosphonic acid diethyl ester is dissolved in 32 ml of ethanol and 23 ml of water, to it is added 4.4 ml of 25% ammonium hydroxide solution, 1.61 g of ammonium chloride and 2.81 g of 35% sodium sulfide and the solution is heated for a few hours to 90° C. The ethanol-water mixture is concentrated by evaporation on a rotary evaporator, taken up in water, extracted with ethyl acetate, washed with brine, dried and spun in. The crude product is chromatographed on silica gel with 2 liters of cyclohexane and ethyl acetate 1:1 and 1 liter of pure ethyl acetate as mobile solvent. 262 mg of product is obtained in several fractions as brown solid.

reactant | (2,4 dinitro-1-naphthylamino)-methanephosphonic acid diethyl ester | 1.352 g | C(C)OP(OCC)(=O)CNC1=C(C=C(C2=CC=CC=C12)[N+](=O)[O-])[N+](=O)[O-] | C15H18N3O7P
reactant | ammonium hydroxide | 4.4 ml | [OH-].[NH4+]
reactant | ammonium chloride | 1.61 g | [Cl-].[NH4+]
reactant | sodium sulfide | 2.81 g | [S-2].[Na+].[Na+]
solvent | ethanol | 32 ml | C(C)O | C2H6O
solvent | water | 23 ml | O | H2O
product | (2-Amino-4-nitro-1-naphthylamino)-methanephosphonic acid diethyl ester | 262 mg | C(C)OP(OCC)(=O)CNC1=C(C=C(C2=CC=CC=C12)[N+](=O)[O-])N | C15H20N3O5P
